US07507758B2
Triphenylphosphane (17.2 g, 65.5 mmole) was added in portions at 0° C., while stirring and within 60 min to a solution of tetrabromocarbon (10.9 g, 32.7 mmole) in DCM (120 ml) and post-stirred for 1 h at 0° C. 3-formyl-indole-1-carboxylic acid-tert-butylester (4 g, 16.4 mmole) dissolved in DCM (30 ml) was subsequently added dropwise within 30 min and the mixture stirred for 4 h at 0° C. After heating the solution to RT, hexane (300 ml) was added and the mixture stirred for 30 min at RT. The mixture was suction filtered and post-washed with hexane. The filtrate was evaporated, a yellow solid being obtained. Chromatographic purification on silica gel was carried out using cyclohexane/EE (95:5). 6.26 g 3-(2,2-dibromovinyl)-indole-1-carboxylic acid-tert-butylester were obtained (white solid, mp. 101 to 104° C.). A solution of 3-(2-2,-dibromovinyl)-indole-1-carboxylic acid-tert-butylester (2.97 g, 7.4 mmole) in THF (20 ml) was introduced at −78° C. under argon, and subsequently a 1.6 M solution of n-butyllithium in hexane (5.7 ml, 9.1 mmole) was added within 30 min, the mixture stirred for 1 h at −78° C., brought to room temperature and then added to a solution, cooled to −78° C., of 4-dimethylamino-4-phenylcycohexane carbaldehyde (580 mg, 2.5 mmole) in THF (10 ml). The mixture was stirred for 8 h at −78° C., brought to room temperature and water (20 ml) was added. For working up, the aqueous phase was extracted with toluene (3×15 ml). The combined organic phase was washed with saturated NH4Cl, 0.2M NaOH and water (about 20 ml in each case), dried over sodium sulfate, filtered and evaporated. First chromatographic purification of the substance mixture obtained was carried out using acetonitrile/methanol/1M NH4Cl (9:1:1) on silica gel. Three compounds were obtained following a second column chromatographic separation with methanol on silica gel:

reactant | Triphenylphosphane | 65.5 mmole, 17.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromocarbon | 32.7 mmole, 10.9 g | BrC(Br)(Br)Br | CBr4
reactant | 3-formyl-indole-1-carboxylic acid-tert-butylester | 16.4 mmole, 4 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C=O | C14H15NO3
reactant | hexane | 300 ml | CCCCCC | C6H14
solvent | DCM | 120 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-(2,2-dibromovinyl)-indole-1-carboxylic acid-tert-butylester | 6.26 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C=C(Br)Br | C15H15Br2NO2
